US05298627
To a stirred -10° C. solution of N-1,1-dimethyl-ethyl, N-phenylmethylacetamide (prepared from N-1,1-dimethylethyl, N-phenylmethyl amine, and acetyl chloride by refluxing for 2 hours in toluene) (102.5 g, 0.5 mol) in tetrahydrofuran (0.5 L) is slowly added a solution of lithium diisopropylamide in tetrahydrofuran-heptane (0.25 L of 2M) while maintaining the temperature between -40° C. to -50° C., and the mixture is stirred at -20° C. to -30° C. for 30 minutes. (R)-4-cyano-3-hydroxybutyric acid, ethyl ester (Brower, supra) (20 g, 0.125 mol) as a solution in 200 mL or tetrahydrofuran is then added to the previous mixture. The reaction mixture is stirred for 30 minutes at -25° C. to -20° C., and transferred to a 2.2N aqueous hydrochloric acid solution (0.5 L). The aqueous layer is extracted with 300 mL of ethyl acetate, the aqueous layer is separated and reextracted with 100 mL of ethyl acetate, the extracts are combined and concentrated in vacuo to afford crude (R)-6-cyano-N-(1,1-dimethylethyl)-5-hydroxy-3-oxo-N-(phenylmethyl)hexanamide as an oil.

reactant | N-phenylmethylacetamide | 0.5 mol, 102.5 g | C1(=CC=CC=C1)CNC(C)=O | C9H11NO
reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | (R)-4-cyano-3-hydroxybutyric acid, ethyl ester | 0.125 mol, 20 g | C(#N)C[C@H](CC(=O)OCC)O | C7H11NO3
reactant | hydrochloric acid | 2.2N, 0.5 L | Cl | ClH
reactant | tetrahydrofuran | 0.5 L | O1CCCC1 | C4H8O
solvent | tetrahydrofuran heptane | 2M, 0.25 L | O1CCCC1.CCCCCCC
product | (R)-6-cyano-N-(1,1-dimethylethyl)-5-hydroxy-3-oxo-N-(phenylmethyl)hexanamide | C(#N)C[C@H](CC(CC(=O)N(CC1=CC=CC=C1)C(C)(C)C)=O)O | C18H24N2O3
